US03951970
Using the procedure of Example 1, 2,6-dimethoxy-4-pentyl benzamide is reduced with lithium aluminum hydride to obtain 2,6-dimethoxy-4-pentyl-benzylamine.

reactant | 2,6-dimethoxy-4-pentyl benzamide | COC1=C(C(=O)N)C(=CC(=C1)CCCCC)OC | C14H21NO3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2,6-dimethoxy-4-pentyl-benzylamine | COC1=C(CN)C(=CC(=C1)CCCCC)OC | C14H23NO2
